US04627871
109 g (1 mole) of 4-amino-phenol and 101 g of triethylamine were dissolved in 700 ml of tetrahydrofuran. 120.5 g (1 mole) of pivalyl chloride were added dropwise at 10°-15° C., with stirring. The mixture was subsequently stirred at room temperature for 2 hours and then poured into 3 liters of water. The crystals precipitated were filtered off with suction and dried in air. 165 g (85.5% of theory) of 4-pivaloylamino-phenol were obtained.

reactant | 4-amino-phenol | 1 mole, 109 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | triethylamine | 101 g | C(C)N(CC)CC | C6H15N
reactant | pivalyl chloride | 1 mole, 120.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | 3 liters | O | H2O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 4-pivaloylamino-phenol | 165 g, 85.5% | C(C(C)(C)C)(=O)NC1=CC=C(C=C1)O | C11H15NO2
